US04755511
A solution of 6-cyano-1-oxo-1,2,3,4-tetrahydro-2-naphthyl acetic acid (5.0 g) in 50% hot aqueous acetic acid was treated with hydrazine hydrate (1.0 ml ) and heated under reflux for 2 hours. The precipitated solid was filtered off and washed with water to give 8-cyano-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one (1.2 g; m.p. 292°-5°); ν(Nujol mull) 3500, 3225, 2225, 1685, 1615, and 1586; δ(DMSO-d6) 1.55 (1H,m,5-H), 2.14 (1H,m,5-H) 2.40 (2H,m,4-H), 2.78 (3H,m,4a,6-H), 7.65 (lH,m,9-H), 7.71 (lH, s, 7-H), 8.12 (1H,d,10-H), 11.04 (1H,s,NH).

reactant | 6-cyano-1-oxo-1,2,3,4-tetrahydro-2-naphthyl acetic acid | 5.0 g | C(#N)C=1C=C2CCC(C(C2=CC1)=O)CC(=O)O | C13H11NO3
reactant | hydrazine hydrate | 1.0 ml | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-cyano-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one | 1.2 g | C(#N)C=1C=CC2=C(CCC3CC(NN=C23)=O)C1 | C13H11N3O
